US07071182B2
1-[1-(2-dimethylamino-ethyl)-1H-indazol-5-yl]-3-(4-phenoxy-phenyl)-urea
A mixture of 1-(2-dimethylamino-ethyl)-1H-indazol-5-ylamine (42 mg, 0.17 mmol), 4-phenoxyphenyl isocyanate (36 mg, 0.17 mmol) in 2 mL of THF was heated to 50° C. for 6 hours, cool to room temperature and concentrated under reduced pressure. The residue was dissolved in 1.5 mL of a 1:1 mixture of dimethyl sulfoxide/methanol and purified by preparative reverse-phase HPLC. 1H NMR (300 MHz, DMSO-d6) ppm 2.85 (s, 6H), 3.63 (t, J=6.40, 2H), 4.77 (t, J=6.40, 2H), 7.09 (m, 2H), 6.97 (m, 4H), 7.36 (m, 2H), 7.47 (m, 1H), 7.57 (m, 2H), 7.67 (m, 1H), 7.97 (s, 1H), 8.10 (s, 1H), 8.98 (s, 1H); MS (DCI/NH3) m/z 416 [M+H]+.

reactant | 1-(2-dimethylamino-ethyl)-1H-indazol-5-ylamine | 0.17 mmol, 42 mg | CN(CCN1N=CC2=CC(=CC=C12)N)C | C11H16N4
reactant | 4-phenoxyphenyl isocyanate | 0.17 mmol, 36 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-[1-(2-dimethylamino-ethyl)-1H-indazol-5-yl]-3-(4-phenoxy-phenyl)-urea | CN(CCN1N=CC2=CC(=CC=C12)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)C | C24H25N5O2
